US06794389B2
cis-2-[2-(4-Chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine
A solution of 120 mg of cis-N-tert-butoxycarbonyl-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine in 5 mL of methylene chloride was combined with 2 mL of trifluoroacetic acid, and reacted at room temperature for 1 hour. The reaction solution was basified by addition of a saturated solution of sodium hydrogen carbonate, extracted with chloroform, and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain 80 mg of the desirable compound.

reactant | cis-N-tert-butoxycarbonyl-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 120 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(C1=CC=C(C=C1)Cl)=O | C27H32ClN5O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | cis-2-[2-(4-Chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 80 mg | ClC1=CC=C(C(=O)NC2=NC3=CC=C(C=C3C(=N2)N[C@@H]2[C@@H](CCCC2)N)OC)C=C1 | C22H24ClN5O2
